### ISSUE TITLE
`match` reduction is slow

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/lean4#2564]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

Another instance where `decide` is surprisingly slow and `native_decide` is quick.

### Context

Zulip discussion [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/List.20insertion.20slowdown/near/388951684). 

### Steps to Reproduce

The following code creates two defeq lists `parts` and `parts2` and then loops through them; for some reason the `parts` loop is very slow with `decide`, but quick with `native_decide`.

```lean
section decidability_instances

variable {α : Type} {p : α → Prop} [DecidablePred p]

instance decidableBex : ∀ (l : List α), Decidable (∃ x, x ∈ l → p x)
  | []    => isFalse sorry
  | x::xs =>
    match ‹DecidablePred p› x with
    | isTrue h₁ => isTrue sorry
    | isFalse h₁ => match decidableBex xs with
      | isTrue h₂  => isTrue <| by sorry
      | isFalse h₂ => isFalse <| by sorry

instance decidableBall (l : List α) : Decidable (∀ x, x ∈ l → p x) :=
  match (inferInstance : Decidable <| ∃ x, x ∈ l → ¬ p x) with
  | isFalse h => isTrue $ fun x hx => match ‹DecidablePred p› x with
    | isTrue h' => h'
    | isFalse h' => False.elim $ h sorry
  | isTrue h => isFalse <| sorry

end decidability_instances

@[inline] protected def List.insert {α : Type} [DecidableEq α] (a : α) (l : List α) : List α :=
  if a ∈ l then l else a :: l

def parts : List (List Nat) := List.insert ([1, 1, 0, 0]) <| List.insert ([0, 0, 1, 1]) <|
  List.insert ([1, 0, 0, 1]) <| List.insert ([1, 1, 1, 0]) <| List.insert ([1, 0, 0, 0]) <|
  List.insert [1, 2, 3, 4] <| List.insert [5, 6, 7, 8] []

def parts2 : List (List Nat) :=
  [[1, 1, 0, 0], [0, 0, 1, 1], [1, 0, 0, 1], [1, 1, 1, 0], [1, 0, 0, 0], [1, 2, 3, 4], [5, 6, 7, 8]]

-- quick
example : parts = parts2 := rfl

-- quick
example : ∀ (x) (_ : x ∈ parts2) (y) (_ : y ∈ parts2), x ++ y ∉ parts2 := by decide

-- quick
example : ∀ (x) (_ : x ∈ parts) (y) (_ : y ∈ parts), x ++ y ∉ parts := by native_decide

-- slow
set_option maxHeartbeats 600000 in -- needed
example : ∀ (x) (_ : x ∈ parts) (y) (_ : y ∈ parts), x ++ y ∉ parts := by decide
```

**Expected behavior:** Hoped behaviour: the last `by decide` is quick.

**Actual behavior:** The last example needs a heartbeats bump.

### Versions

`4.1.0-rc1` and earlier versions.

### Impact

People doing additive combinatorics like Bhavik Mehta run into things like this when formalising research level mathematics. Additive combinatorics is a very successful topic for Lean; both Bhavik and Yael Dillies have nearly finished formalising big new papers that came out within the last year and were featured in Quanta. Both of them are still working in Lean 3, because `dec_trivial` solves the goal quickly in Lean 3. Note that in the actual applications there are `finset`s not `list`s, and `insert` is the usual constructor for finsets. It is important to get these people upgrading to Lean 4, which is why I took the time to minimise the issue.

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Preliminary hypothesis: insufficient caching during matcher reduction leads to exponential behavior. This would explain why kernel reduction is much faster, which does not have a matcher special case.
